US06407138B1
Into about 1300 grams of water was dissolved 210.72 grams of glycine and 79.86 grams of calcium oxide. The solution was stirred until all of the calcium oxide appeared to be fully dissolved, i.e., about 15 minutes. The resulting reaction formed a calcium bisglycinate chelate or complex solution.

reactant | glycine | 210.72 grams | NCC(=O)O | C2H5NO2
reactant | calcium oxide | 79.86 grams | [O-2].[Ca+2]
solvent | water | about 1300 grams | O | H2O
product | calcium bisglycinate | NCC(=O)[O-].NCC(=O)[O-].[Ca+2] | InChI=1S/2C2H5NO2.Ca/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
